US09402841B2
Step B: (S)-tert-butyl 3-((6-cyano-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate
A solution of (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate (1141 mg, 2.9 mmol), zinc cyanide (681 mg, 5.80 mmol) and N1,N1,N2,N2-tetramethylethane-1,2-diamine (87 μL, 0.580 mmol) in NMP was degassed with nitrogen for 5 minutes. Xantphos (168 mg, 0.290 mmol) and Pd2dba3 (266 mg, 0.290 mmol) were added and the mixture was heated in a microwave reactor at 160° C. for 10 minutes. The reaction mixture was subsequently diluted with EtOAc. The organic phase was washed with water (2×), dried, and concentrated in vacuo. The crude product was purified by preparative HPLC eluting with a gradient of 45-70% ACN in water (acid mode) to give the title compound as a yellow solid (175 mg, 17.8%).

reactant | (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate | 2.9 mmol, 1141 mg | BrC=1C=C2C=CC=NC2=C(N1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H21BrN4O2
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | 0.580 mmol, 87 μL | CN(CCN(C)C)C | C6H16N2
reactant | Xantphos | 0.290 mmol, 168 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 5.80 mmol, 681 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2dba3 | 0.290 mmol, 266 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-tert-butyl 3-((6-cyano-1,7-naphthyridin-8-yl)amino)pyrrolidine-1-carboxylate | 175 mg, 17.8% | C(#N)C=1C=C2C=CC=NC2=C(N1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21N5O2
